US05808102
Preparation of (4S-cis)-4,5-Dihydro-2,4-diphenyl-5-oxazolecarboxylic acid, ethyl ester
In a 100 ml flask containing a solution of (2R,3S)-N-benzoyl-3-phenylisoserine ethyl ester (2.00 g, 6.38 mmol) in pyridine (20 ml) at 0° C. was added methanesulfonyl chloride (0.52 ml, 6.70 mmol) dropwise over a 2 minute period. The solution was stirred at 0° to 4° C. for 90 minutes and then at 65°-70° C. for 18 hours. (The reaction was monitored by TLC using 1:2 EtOAc:Toluene as eluent, Rf for the starting material=0.42, Rf for the mesylate=0.48 and Rf for the cis-oxazoline title product=0.78, UV visualization.)

reactant | (2R,3S)-N-benzoyl-3-phenylisoserine ethyl ester | 6.38 mmol, 2.00 g | C(C)OC([C@@H]([C@@H](NC(C1=CC=CC=C1)=O)C1=CC=CC=C1)O)=O | C18H19NO4
reactant | methanesulfonyl chloride | 6.70 mmol, 0.52 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | (4S-cis)-4,5-Dihydro-2,4-diphenyl-5-oxazolecarboxylic acid, ethyl ester | C1(=CC=CC=C1)C=1O[C@@H]([C@@H](N1)C1=CC=CC=C1)C(=O)OCC | C18H17NO3
